US06258963B1
p-Methoxybenzylidene-4-methyl-γ-butyrolactone
74 g (0.5 mol) of 4-methyl-γ-butyrolactone are added to a suspension of 27 g (0.50 mol) of sodium methoxide in 400 g of methyl tert-butyl ether and, over the course of 1 h, 68 g (0.5 mol) of anisaldehyde are added thereto with stirring at room temperature. The mixture is maintained under reflux for a further 1 h and then cooled, and 200 g of iced water are added to the mixture and the pH is adjusted to 5 using 10% sulphuric acid. After the phases have separated, the product is distilled. This gives 65 g of the desired compound in a yield of 48% of theory. The specific absorbance E{fraction (1/1)} of the novel compound according to the present invention is 1.250, measured at a wavelength of λmax 310 nm.

reactant | 4-methyl-γ-butyrolactone | 0.5 mol, 74 g | CC1CCC(=O)O1 | C5H8O2
reactant | sodium methoxide | 0.50 mol, 27 g | C[O-].[Na+]
reactant | anisaldehyde | 0.5 mol, 68 g | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methyl tert-butyl ether | 400 g | C(C)(C)(C)OC | C5H12O
solvent | water | 200 g | O | H2O
product | p-Methoxybenzylidene-4-methyl-γ-butyrolactone | yield of 48% | COC1=CC=C(C=C2C(=O)OC(C2)C)C=C1 | C13H14O3
